US08975254B2
d) (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(methoxymethyl)-1H-pyrazole-5-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 3-(methoxymethyl)-1H-pyrazole-5-carboxylic acid (0.119 g, 0.759 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.165 g, 0.633 mmol). The product was purified with flash-chromatography. Yield 5.07%. 1H-NMR (400 MHz; CDCl3): δ 1.22 (d, 3H), 3.42 (s, 3H), 4.27 (dd, 1H), 4.43 (dd, 1H), 4.54-4.62 (m, 3H), 6.62 (d, 1H), 6.69 (s, 1H), 7.49 (d, 1H), 7.67 (d, 1H), 7.75 (dd, 1H), 7.83 (m, 1H), 8.17 (d, 1H).

reactant | 3-(methoxymethyl)-1H-pyrazole-5-carboxylic acid | 0.759 mmol, 0.119 g | COCC1=NNC(=C1)C(=O)O | C6H8N2O3
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.633 mmol, 0.165 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(methoxymethyl)-1H-pyrazole-5-carboxamide | Yield 5.07% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=CC(=NN1)COC | C19H19ClN6O2
